US05597918
To a suspension of 0.75 g of 9-hydroxymethyl-2-(4-methylphenyl)2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one in methanol was added 0.1 ml of conc. sulfuric acid at room temperature and the mixture was refluxed under heating for 3 hours. The mixture was poured into aqueous sodium hydrogen carbonate solution and extraced with chloroform. The extract was washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was chromatographed on a silica gel column using chloroform as an eluent. The solid was recrystallized from a mixed solvent of ethanol and isopropyl ether to give 0.7 g of 9-methoxymethyl-2-(4-methylphenyl)-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one as a white powder, melting at 109°-110° C.

reactant | 9-hydroxymethyl-2-(4-methylphenyl)2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one | 0.75 g | OCC1=CC2=C(CCCC=3C2=NN(C(C3)=O)C3=CC=C(C=C3)C)S1 | C19H18N2O2S
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 9-methoxymethyl-2-(4-methylphenyl)-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one | 0.7 g | COCC1=CC2=C(CCCC=3C2=NN(C(C3)=O)C3=CC=C(C=C3)C)S1 | C20H20N2O2S
